US08937176B2
6.01.03 2-bromo-1-(4-fluoro-3-methyl-phenyl)-ethanone
5.1 mL bromine was added to 15 g 4-fluor-3-methylacetophenone in 80 mL concentrated acetic acid. The reaction was stirred 3 h at RT. The reaction was added to water. The precipitate was filtered and dried to give 20.6 g desired product. Rt: 1.37 min (method I), (M+H)+: 231

reactant | bromine | 5.1 mL | BrBr | Br2
reactant | 4-fluor-3-methylacetophenone | 15 g | CC1=C(C=CC(=C1)C(=O)C)F | C9H9FO
reactant | water | O | H2O
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(4-fluoro-3-methyl-phenyl)-ethanone | 20.6 g | BrCC(=O)C1=CC(=C(C=C1)F)C | C9H8BrFO
